US09278983B2
To a mixture of 3-methyl-2-(2-methylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.30 g) and chloroform (9 ml), 69% of 3-chloroperbenzoic acid (0.70 g) was added under ice-cooling, and then heated to room temperature, and stirred for 2 hours. Then, into the mixture, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution were poured, and extracted with chloroform 2 times. The combined organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.32 g of 2-(2-methylsulfonylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 3).

reactant | 3-methyl-2-(2-methylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.30 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)SC | C15H12F3N3S
reactant | 3-chloroperbenzoic acid | 0.70 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 9 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-methylsulfonylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.32 g | CS(=O)(=O)C1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C15H12F3N3O2S
